US06004963
A suspension of 11.72 g of DL-norvaline in 90 ml of ethanol was combined with 3.6 ml of concentrated sulphuric acid and the mixture refluxed for eight days. A clear solution was formed, from which, after cooling, ethanol was removed by distillation. The residue was redissolved in 200 ml of distilled water and the pH adjusted to a value of between 10 and 12 by adding potassium carbonate. Extraction was then performed three times with 50 ml portions of ethyl acetate, the mixture washed once with 50 ml of a saturated sodium chloride solution and dried over sodium sulphate. Once the solvent had been removed by distillation, 11.93 g of 2-aminopentanoic acid ethyl ester (82% of th.) were obtained in the form of a yellowish oil.

reactant | DL-norvaline | 11.72 g | NC(CCC)C(=O)O | C5H11NO2
reactant | sulphuric acid | 3.6 ml | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 90 ml | C(C)O | C2H6O
product | 2-aminopentanoic acid ethyl ester | 11.93 g, 82% | C(C)OC(C(CCC)N)=O | C7H15NO2
